US08491869B2
To 3-fluoropropan-1-ol (4 mg, 0.05 mmol) in 0.5 mL DCM was added Dess-Martin reagent (42 mg, 0.1 mmol). The mixture was stirred at rt for 1 h and filtered directly into a mixture of 4-(benzo[4,5]imidazo[1,2-a]pyrimidin-2-yl)aniline (4 mg, 0.015 mmol) and NaBH(OAc)3 (43 mg, 0.2 mmol) with stirring. After vigorously stirred for 5 min, reaction was quenched by adding 0.5 M NaOH (2 mL). The mixture was extracted with EtOAc (3×10 mL) and the organic phase was dried over MgSO4 and concentrated. The crude product was purified by HPLC to afford 4-(Benzo[4,5]imidazo[1,2-a]pyrimidin-2-yl)-N-(3-fluoropropyl)aniline as a yellow solid (2.7 mg, 33%). 1H NMR (400 MHz, CDCl3): δ 8.76 (d, J=7.2 Hz, 1H), 7.88 (m, 4H), 7.55 (d, J=7.2 Hz, 1H), 7.53 (m, 1H), 7.40 (m, 1H), 6.47 (d, J=9.2 Hz, 1H), 4.68 (t, J=5.2 Hz, 1H), 4.56 (t, J=5.2 Hz, 1H), 3.34 (t, J=6.8 Hz, 2H), 2.09 (m, 1H), 2.02 (m, 1H); MS (ESI): 321 (M+H+).

reactant | 3-fluoropropan-1-ol | 0.05 mmol, 4 mg | FCCCO | C3H7FO
reactant | Dess-Martin reagent | 0.1 mmol, 42 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 4-(benzo[4,5]imidazo[1,2-a]pyrimidin-2-yl)aniline | 0.015 mmol, 4 mg | N=1C=2N(C=CC1C1=CC=C(N)C=C1)C1=C(N2)C=CC=C1 | C16H12N4
reactant | NaBH(OAc)3 | 0.2 mmol, 43 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 4-(Benzo[4,5]imidazo[1,2-a]pyrimidin-2-yl)-N-(3-fluoropropyl)aniline | 2.7 mg, 33% | N=1C=2N(C=CC1C1=CC=C(NCCCF)C=C1)C1=C(N2)C=CC=C1 | C19H17FN4
